US07687502B2
[6-(2-Fluoro-6-(methylsulfonyl)phenoxy)-quinazolin-4-yl]-thiazolo[5,4-b]pyridin-2-yl-amine
(6-Hydroxy-quinazolin-4-yl)-thiazolo[5,4-b]pyridin-2-yl-amine (100 mg; 0.34 mmol) and 116 mg (0.61 mmol) of 1,2-difluoro-3-methanesulfonylbenzene were added to a solution of 120 mg (0.61 mmol) of tert-buxoty potassium in 5 ml of N,N-dimethylacetamide and the mixture was stirred at room temperature for 1 hour. Water was added to the reaction solution and the mixture was extracted with chloroform. The organic layer was dried and concentrated and the resulting residue was purified by a thin layer silica gel chromatography (chloroform:methanol=10:1) to give 81 mg (yield: 51%) of the title compound as a yellow solid.

reactant | (6-Hydroxy-quinazolin-4-yl)-thiazolo[5,4-b]pyridin-2-yl-amine | 0.34 mmol, 100 mg | OC=1C=C2C(=NC=NC2=CC1)NC=1SC2=NC=CC=C2N1 | C14H9N5OS
reactant | 1,2-difluoro-3-methanesulfonylbenzene | 0.61 mmol, 116 mg | FC1=C(C(=CC=C1)S(=O)(=O)C)F | C7H6F2O2S
reactant | potassium | 0.61 mmol, 120 mg | [K] | K
reactant | Water | O | H2O
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
product | [6-(2-Fluoro-6-(methylsulfonyl)phenoxy)-quinazolin-4-yl]-thiazolo[5,4-b]pyridin-2-yl-amine | 81 mg, yield: 51% | FC1=C(OC=2C=C3C(=NC=NC3=CC2)NC=2SC3=NC=CC=C3N2)C(=CC=C1)S(=O)(=O)C | C21H14FN5O3S2
